US07034015B2
Preparation 5: Dimethyl [(2E)-3-(tributylstannyl)prop-1-enyl]malonate (Compound 405)
Sodium hydride (75 mg) was added to a solution of dimethyl malonate (387 mg) in dry DMF (5 mL) at 0° C. [(1E)-3-bromoprop-1-enyl](tributyl)stannane (600 mg) was added to the reaction mixture after 10 min. The reaction mixture was stirred for 3 h at 20° C. and then quenched with saturated NH4Cl(aq.). Extraction with EtOAc and drying (MgSO4) of the organic phase gave, after concentration in vacuo, the crude product. Purification was done by chromatography eluting with petroleum ether/Et2O 12:1 to afford the title compound as a liquid.

reactant | Sodium hydride | 75 mg | [H-].[Na+]
reactant | dimethyl malonate | 387 mg | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | [(1E)-3-bromoprop-1-enyl](tributyl)stannane | 600 mg | BrC/C=C/[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Dimethyl [(2E)-3-(tributylstannyl)prop-1-enyl]malonate | C(CCC)[Sn](C/C=C/C(C(=O)OC)C(=O)OC)(CCCC)CCCC | InChI=1S/C8H11O4.3C4H9.Sn/c1-4-5-6(7(9)11-2)8(10)12-3;3*1-3-4-2;/h4-6H,1H2,2-3H3;3*1,3-4H2,2H3;/b5-4+;;;;
